US04209621
7-Phenyl-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 5.25 g. of 3-dimethylaminoacrylophenone and 2.52 g. of 3-amino-1,2,4-triazole in 25 ml. of glacial acetic acid is refluxed for 4 hours. Evaporation gives a solid which is treated with a saturated sodium bicarbonate solution and dissolved in methylene chloride. This solution is passed through a short column of a hydrous magnesium silicate. Addition of hexane to a refluxing solution of the eluent gives crystals of the desired compound, m.p. 143°-144° C. K. Shirakawa, Yakugaku Zasshi 80, 956 (1960) cites melting point 140° C. for the compound assigned this structure but prepared by a different route.

reactant | 3-dimethylaminoacrylophenone | CN(C=CC(=O)C1=CC=CC=C1)C | C11H13NO
reactant | 3-amino-1,2,4-triazole | NC1=NNC=N1 | C2H4N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Phenyl-1,2,4-triazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)C1=CC=NC=2N1N=CN2 | C11H8N4
